US09079865B2
Synthesis of 3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazole
A solution of 4-chloro-3,5-bis(trifluoromethyl)benzothioamide (1 g) in DMF (10 mL) was treated with hydrazine hydrate (0.32 g, 2.0 eq.) and the reaction mixture was stirred at room temperature for 1 h before adding formic acid (3 mL). The reaction mixture was refluxed at 90° C. for 3 h then cooled to room temperature, poured into aqueous saturated NaHCO3 (slowly, maintaining temperature 25-30° C.) and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine (3×50 mL), dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure (25° C., 20 mmHg) to afford 1.5 g of crude compound. Purification by column chromatography (eluting with 40% EtOAc in hexane) afforded 0.50 g of desired compound (yield: 36%).

reactant | 4-chloro-3,5-bis(trifluoromethyl)benzothioamide | 1 g | ClC1=C(C=C(C(N)=S)C=C1C(F)(F)F)C(F)(F)F | C9H4ClF6NS
reactant | hydrazine hydrate | 0.32 g, 2.0 eq. | O.NN
reactant | formic acid | 3 mL | C(=O)O | CH2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 0.50 g, yield: 36% | ClC1=C(C=C(C=C1C(F)(F)F)C1=NNC=N1)C(F)(F)F | C10H4ClF6N3
